US07728025B2
1-(2-(2-(5-Bromo-pyridin-2-yl-6-(4-methanesulfonyl-phenoxy)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone enantiomer A
0.020 ml of acetic anhydride was added to a pyridine (1 ml) solution of 43 mg of 2-(5-bromo-pyridin-2-yl)-5-(4-methanesulfonyl-phenoxy)-6-pyrrolidin-2-yl-1H-benzimidazol enantiomer A obtained in Example 342, and the reaction liquid was stirred at room temperature for 10 minutes. Aqueous saturated sodium bicarbonate solution was added to the reaction liquid, and extracted with chloroform, and the organic layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain the entitled compound as a white solid.

reactant | acetic anhydride | 0.020 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(5-bromo-pyridin-2-yl)-5-(4-methanesulfonyl-phenoxy)-6-pyrrolidin-2-yl-1H-benzimidazol | 43 mg | BrC=1C=CC(=NC1)C1=NC2=C(N1)C=C(C(=C2)OC2=CC=C(C=C2)S(=O)(=O)C)C2NCCC2 | C23H21BrN4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-(5-Bromo-pyridin-2-yl-6-(4-methanesulfonyl-phenoxy)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | BrC=1C=CC(=NC1)C=1NC2=C(N1)C=C(C(=C2)C2N(CCC2)CC=O)OC2=CC=C(C=C2)S(=O)(=O)C | C25H23BrN4O4S
